US08476286B2
Synthesis of 4-(4-Isopropyl-phenyl)-1-{3-[2-(2-methoxy-ethoxy)-ethoxy]-benzyl}-6-prop-2-ynyloxy-1H-quinazolin-2-one
To a solution of 100 mg (0.236 mmol) of 1-(3-hydroxy-benzyl)-4-(4-isopropyl-phenyl)-6-prop-2-ynyloxy-1H-quinazolin-2-one in anhydrous DMF (5 mL) is added NaH (11 mg, 0.471 mmol) and the solution is allowed to stir until evolution of gas ceases. 1-bromo-2-(2-methoxyethoxy)-ethane (34 μl, 0.247 mmol) is added and the mixture is heated for 20 hours at 60° C. After cooling to room temperature, the reaction mixture is quenched with water and extracted with dichloromethane (2×20 ml). The combined organic layers are washed with brine, dried (Na2SO4), filtered and evaporated in vacuo to provide a yellow solid which is purified by flash chromatography on silica gel using petroleum ether/ethyl acetate (1:1) to provide the title compound as a yellow oil. Yield: 111 mg (85%).

reactant | 1-(3-hydroxy-benzyl)-4-(4-isopropyl-phenyl)-6-prop-2-ynyloxy-1H-quinazolin-2-one | 0.236 mmol, 100 mg | OC=1C=C(CN2C(N=C(C3=CC(=CC=C23)OCC#C)C2=CC=C(C=C2)C(C)C)=O)C=CC1 | C27H24N2O3
reactant | NaH | 0.471 mmol, 11 mg | [H-].[Na+]
reactant | 1-bromo-2-(2-methoxyethoxy)-ethane | 0.247 mmol, 34 μl | BrCCOCCOC | C5H11BrO2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-(4-Isopropyl-phenyl)-1-{3-[2-(2-methoxy-ethoxy)-ethoxy]-benzyl}-6-prop-2-ynyloxy-1H-quinazolin-2-one | C(C)(C)C1=CC=C(C=C1)C1=NC(N(C2=CC=C(C=C12)OCC#C)CC1=CC(=CC=C1)OCCOCCOC)=O | C32H34N2O5
